US08859544B2
Methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate
0.492 g (2.73 mmol) of N-bromosuccinimide is added, under an inert atmosphere at ambient temperature, to 0.812 g (2.6 mmol) of methyl 2-amino-5-[(2-methylindolizin-3-yl)carbonyl]benzoate in 17 ml of dichloromethane. The reaction medium is stirred for 2 hours and then hydrolysed with water. The aqueous phase is extracted with dichloromethane. The organic phase obtained is washed with a saturated aqueous solution of sodium hydrogen carbonate and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The solid obtained is purified by silica gel column chromatography, elution being carried out with dichloromethane. 0.9 g of a yellow solid is obtained.

reactant | N-bromosuccinimide | 2.73 mmol, 0.492 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 2-amino-5-[(2-methylindolizin-3-yl)carbonyl]benzoate | 2.6 mmol, 0.812 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C=C2C=CC=CN12)C | C18H16N2O3
reactant | water | O | H2O
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
product | Methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate | 0.9 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)Br)C | C18H15BrN2O3
